US07629344B2
2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)acetic acid tert-butyl ester (977 mg) was dissolved in trifluoroacetic acid (TFA) (10 mL) and stirred at room temperature for 1 hr. The mixture was evaporated in vacuo to provide 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)acetic acid as a brown oil, which was used without further purification.

reactant | 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)acetic acid tert-butyl ester | 977 mg | C(C)(C)(C)OC(CN1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O | C15H17N5O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3-(1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-1-yl)acetic acid | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
